US09233985B2
Step 2: (3R,4S)-tert-butyl 3-acetamido-4-allyl-3-(tert-butylcarbamoyl)pyrrolidine-1-carboxylate
A stirred mixture of tert-butyl 3-allyl-4-oxopyrrolidine-1-carboxylate (13.23 g, 58.7 mmol) and ammonium acetate (11.95 g, 155 mmol) in 2,2,2-trifluoroethanol (25 mL) under nitrogen was treated with t-butylisonitrile (12.25 mL, 106 mmol), then stirred at room temperature for 4 days and concentrated. The residue was partitioned between water (100 mL) and methylene chloride (200 mL), and the aqueous layer was extracted with methylene chloride (2×75 mL). The combined organic solution was washed with water and saturated aqueous sodium chloride (100 mL each), dried (Na2SO4), and concentrated to an off-white solid. This was recrystallized twice with ethyl acetate (150 mL each) to afford a portion of the title product (8.36 g) as a white solid. The combined mother liquors were concentrated, dissolved in minimum methylene chloride, and loaded onto a silica gel column (650 mL volume). This was eluted with 60%, then 70%, then 90% ethyl acetate/heptane to afford additional product (3.84 g). Total yield of (3R,4S)-tert-butyl 3-acetamido-4-allyl-3-(tert-butylcarbamoyl)pyrrolidine-1-carboxylate was 12.22 g (57%) as a white solid. NMR (CDCl3) δ 6.30-6.70 (m, 2 H), 5.60-5.75 (m, 1 H), 4.95-5.10 (m, 2 H), 3.94 (d, J=11.5 Hz, 1 H), 3.75 (d, J=11.5 Hz, 1 H), 3.60 (m, 1 H), 3.00-3.20 (m, 2 H), 2.20-2.30 (m, 1 H), 2.00 (s, 3 H), 1.80-1.90 (m, 1 H), 1.44 (s, 9 H), 1.33 (s, 9 H). MS (m+1): 368.3; MS (m−bu+1): 312.1; MS (m−boc+1): 268.3.

reactant | tert-butyl 3-allyl-4-oxopyrrolidine-1-carboxylate | 58.7 mmol, 13.23 g | C(C=C)C1CN(CC1=O)C(=O)OC(C)(C)C | C12H19NO3
reactant | ammonium acetate | 155 mmol, 11.95 g | C(C)(=O)[O-].[NH4+]
reactant | t-butylisonitrile | 106 mmol, 12.25 mL | C(C)(C)(C)[N+]#[C-] | C5H9N
reactant | 2,2,2-trifluoroethanol | 25 mL | FC(CO)(F)F | C2H3F3O
product | (3R,4S)-tert-butyl 3-acetamido-4-allyl-3-(tert-butylcarbamoyl)pyrrolidine-1-carboxylate | 8.36 g | C(C)(=O)N[C@]1(CN(C[C@@H]1CC=C)C(=O)OC(C)(C)C)C(NC(C)(C)C)=O | C19H33N3O4
